US06596722B2
A solution of 2-(5-fluorobenzofuran-3-yl)ethanol (5.2 g) and tetrabromomethane (11.6 g) in acetonitrile (175 mL) was treated with triphenylphosphine (8.3 g) at 0° C. After stirring for 15 min, the mixture was concentrated in vacuo an the resulting oil was applied to a silica gel flash column (eluent: heptane/ethyl acetate 65:35) resulting in an oil, 3-(2-bromoethyl)-5-fluorobenzofuran (7.4 g).

reactant | 2-(5-fluorobenzofuran-3-yl)ethanol | 5.2 g | FC=1C=CC2=C(C(=CO2)CCO)C1 | C10H9FO2
reactant | tetrabromomethane | 11.6 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 8.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 175 mL | C(C)#N | C2H3N
product | 3-(2-bromoethyl)-5-fluorobenzofuran | 7.4 g | BrCCC1=COC2=C1C=C(C=C2)F | C10H8BrFO
